US07585878B2
Methyl 4-[(1E)-3-ethoxy-2-methyl-3-oxoprop-1-en-1-yl]-3-nitrobenzoate and palladium/carbon were added to ethanol and the whole was stirred under a hydrogen atmosphere to obtain methyl 3-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-carboxylate.

reactant | Methyl 4-[(1E)-3-ethoxy-2-methyl-3-oxoprop-1-en-1-yl]-3-nitrobenzoate | C(C)OC(/C(=C/C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])/C)=O | C14H15NO6
catalyst | palladium/carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | methyl 3-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-carboxylate | CC1C(NC2=CC(=CC=C2C1)C(=O)OC)=O | C12H13NO3
